US08530504B2
Ethyl 3,5-dibromo-1-(methoxymethyl)-1H-pyrazole-4-carboxylate
To a tetrahydrofuran (262 mL) solution of ethyl 3,5-dibromo-1H-pyrazole-4-carboxylate (20.93 g, 703 mmol) was added N,N-diisopropylethylamine (24.5 mL, 141 mmol), and chloromethyl methyl ether (6.42 mL, 84.3 mmol) was added dropwise while cooling on ice, and stirred at room temperature for one hour. After the reaction was completed, water was added while cooling on ice, the reaction mixture was extracted with ethyl acetate, the organic layer was dried over magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (n-heptane/ethyl acetate=3/1) to obtain the title compound (23.4 g, 68.5 mmol).

reactant | tetrahydrofuran | 262 mL | O1CCCC1 | C4H8O
reactant | ethyl 3,5-dibromo-1H-pyrazole-4-carboxylate | 703 mmol, 20.93 g | BrC1=NNC(=C1C(=O)OCC)Br | C6H6Br2N2O2
reactant | N,N-diisopropylethylamine | 141 mmol, 24.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethyl methyl ether | 84.3 mmol, 6.42 mL | COCCl | C2H5ClO
solvent | water | O | H2O
product | Ethyl 3,5-dibromo-1-(methoxymethyl)-1H-pyrazole-4-carboxylate | 68.5 mmol, 23.4 g | BrC1=NN(C(=C1C(=O)OCC)Br)COC | C8H10Br2N2O3
